US04150032
Ethyl 7-methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-1-naphthaleneacetate
The compound 3,4-dihydro-7-methoxy-1-methyl-2(1H)-naphthalenone (VIIIb) (28.23 g, 148 mmol) was reacted with ethyl bromoacetate by the method of Example 5 to yield 36.0 g (88%) (IXb) b.p. 138°-140°/0.1 mm Hg; IR (neat) 1740 cm-1 (unresolved ketone and ester bands); NMR δ, 1.05 and 3.93 (triplet and quartet for CO2CH2CH3), 1.37 (s, 3, CH3), 3.80 (s, 3, OCH3), 6.6-7.3 (m, 3, ArH). The distillate crystallized on standing. A sample recrystallized from ethanol melted at 55°-55.55°.

reactant | 3,4-dihydro-7-methoxy-1-methyl-2(1H)-naphthalenone | 148 mmol, 28.23 g | COC1=CC=C2CCC(C(C2=C1)C)=O | C12H14O2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | Ethyl 7-methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-1-naphthaleneacetate | COC1=CC=C2CCC(C(C2=C1)(CC(=O)OCC)C)=O | C16H20O4
